US04343811
2-[3-(4-Methoxy-phenyl)-1,2-dimethyl-1H-indole-7-yloxy]-2-methyl-propanoic acid ethylester
The above compound was prepared from 3-(4-methoxy-phenyl)-1,2-dimethyl-1H-indole-7-ol and 2-bromo-2-methyl-propanoic acid ethylester using a procedure analogous to that of Example 10.

reactant | 3-(4-methoxy-phenyl)-1,2-dimethyl-1H-indole-7-ol | COC1=CC=C(C=C1)C1=C(N(C2=C(C=CC=C12)O)C)C | C17H17NO2
reactant | 2-bromo-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
product | 2-[3-(4-Methoxy-phenyl)-1,2-dimethyl-1H-indole-7-yloxy]-2-methyl-propanoic acid ethylester | C(C)OC(C(C)(C)OC=1C=CC=C2C(=C(N(C12)C)C)C1=CC=C(C=C1)OC)=O | C23H27NO4
